US07335658B2
1-(4-FLUOROPHENYL)-3-{6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]-PYRIDAZIN-3-YL}UREA
Following the procedure of Example 5, making variations only as required to use 4-fluorophenylisocyanate in place of (2-isocyanatocyclopropyl)benzene to react with [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)-methanone, the title compound was obtained as a white solid (32.3% yield). 1H NMR (500 MHz, CDCl3) δ 12.0, 8.20, 7.53, 7.64, 7.59, 7.39, 7.33, 7.16, 6.91-6.98, 3.96-4.04, 3.83-3.90, 3.52-3.65, 3.37-3.45, 3.20-3.26. MS (ES+) m/z 489 (M+1).

reactant | 4-fluorophenylisocyanate | FC1=CC=C(C=C1)N=C=O | C7H4FNO
reactant | [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)-methanone | NC1=CC=C(N=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C16H16F3N5O
product | 1-(4-FLUOROPHENYL)-3-{6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]-PYRIDAZIN-3-YL}UREA | FC1=CC=C(C=C1)NC(=O)NC=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C23H20F4N6O2
